US04183879
Preparation of Tetramethyl para-menthane-2,6-diyldiphosphonate
In a manner similar to the previous examples, 233 ml of dimethyl hydrogen phosphite was stirred with 4.6 ml of di-tertiary-butyl peroxide at 140°-150° while α-pinene (81 ml) was added over a period of 15 minutes. After maintaining the reaction mixture at 140° for 18 hours, an additional 4.6 ml of di-tertiary-butyl peroxide was added. After heating an additional 30 minutes, the reaction mixture was subjected to distillation which provided the di-adduct. The NMR spectrum showed the methyl ester groups as a multiplet consisting mainly of 2 spikes at 3.70δ and 3.88δ along with the remainder of the protons between 0.7δ and 3.5δ.

reactant | dimethyl hydrogen phosphite | 233 ml | P(OC)(OC)O | C2H7O3P
reactant | di-tertiary-butyl peroxide | 4.6 ml | C(C)(C)(C)OOC(C)(C)C | C8H18O2
reactant | α-pinene | 81 ml | CC1=CCC2CC1C2(C)C | C10H16
reactant | di-tertiary-butyl peroxide | 4.6 ml | C(C)(C)(C)OOC(C)(C)C | C8H18O2
product | Tetramethyl para-menthane-2,6-diyldiphosphonate | C1(C(CC(CC1P(OC)(OC)=O)C(C)C)P(OC)(OC)=O)C | C14H30O6P2
